### PR TITLE
[Merged by Bors] - feat(CategoryTheory/GradedObject): the single functor

### PR DESCRIPTION
**Pull request by joelriou**
This PR defines the functor `GradedObject.single : C ⥤ GradedObject J C` which sends an object `X : C` to the graded object which is `X` in degree `j` and the initial object of `C` in other degrees.

This shall be used in the construction of the unit of the tensor product on `I`-graded objects (when `I` is an additive monoid).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/GradedObject/Single.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+@[reassoc (attr := simp)]
+lemma singleObjApplyIso_inv_single_map (j : J) {X Y : C} (f : X ⟶ Y) :
+    (singleObjApplyIso j X).inv ≫ (single j).map f j = f ≫ (singleObjApplyIso j Y).inv := by
+  apply singleObjApplyIsoOfEq_inv_single_map
+
+@[reassoc (attr := simp)]
+lemma single_map_singleObjApplyIso_hom (j : J) {X Y : C} (f : X ⟶ Y) :
+    (single j).map f j ≫ (singleObjApplyIso j Y).hom = (singleObjApplyIso j X).hom ≫ f := by
+  apply single_map_singleObjApplyIsoOfEq_hom
+
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/GradedObject/Single.lean:73]: Not sure if it's useful, but you could package your results in a natural isomorphism
```lean
noncomputable def singleCompEval (j : J) : single j ⋙ eval j ≅ 𝟭 C :=
  NatIso.ofComponents (singleObjApplyIso j) (by aesop_cat)
```

File: Mathlib/CategoryTheory/GradedObject/Single.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
+/-
+Copyright (c) 2024 Joël Riou. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joël Riou
+-/
+import Mathlib.CategoryTheory.GradedObject
+/-!
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/GradedObject/Single.lean:7]:
```suggestion

/-!
```

File: Mathlib/CategoryTheory/GradedObject/Single.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/GradedObject/Single.lean:74]: Thanks for the suggestion! I have added this.

File: Mathlib/CategoryTheory/GradedObject/Single.lean [hunk 3]
```diff
@@ -0,0 +1,76 @@
...
+
+open Limits
+
+namespace GradedObject
+
+variable {J : Type*} {C : Type*} [Category C] [HasInitial C] [DecidableEq J]
+
+/-- The functor which sends `X : C` to the graded object which is `X` in degree `j`
+and the initial object in other degrees. -/
+noncomputable def single (j : J) : C ⥤ GradedObject J C where
```
[the remark this answers is not in the document]
Comment (joelriou) [reply Mathlib/CategoryTheory/GradedObject/Single.lean:27]: Actually, the target category `C` is implicit in `Functor.const`. I have followed the same design here: in `(single j).obj X`, the category `C` can be inferred from the type of `X`.

[the remark this answers is not in the document]
Comment (TwoFX) [reply Mathlib/CategoryTheory/GradedObject/Single.lean:27]: Sorry, you're right. For some reason I thought the roles of `J` and `C` were swapped in this case, but that's not true.

**Review by TwoFX — APPROVED** [review]
LGTM except for the missing docstring.
bors d+

**Comment by joelriou** [comment]
Thanks for the reviews!

bors merge
